US06194406B1
1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(4-methoxyphenyl)pyrrolidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(4-methoxyphenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine (0.94 g, 1.90 mmol), 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (0.52 g, 1.80 mmol), and N,N-diisopropylethylamine (0.7 mL, 4.0 mmol) in acetonitrile (30 mL). Heat to reflux. After 18 hours, cool and dilute the reaction mixture ethyl acetate (300 mL). Extract three times with an aqueous 1% sodium bicarbonate solution, and then brine. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 25% methanol/ethyl acetate containing concentrated ammonium hydroxide (20 mL/3 L). Evaporate the product containing fractions in vacuo to give a residue. Dissolve the residue in dichloromethane, filter, and evaporate in vacuo to give a the title compound: Rf=0.20 (silica gel, 20% methanol/ethyl acetate).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(4-methoxyphenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | 1.90 mmol, 0.94 g | COC=1C=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=C(C=C2)OC)C=C(C1OC)OC | C24H31NO8S
reactant | 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 1.80 mmol, 0.52 g | C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C16H24N4O
reactant | N,N-diisopropylethylamine | 4.0 mmol, 0.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol ethyl acetate | 20 mL | CO.C(C)(=O)OCC
product | 1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(4-methoxyphenyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=C(C=C2)OC)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1OC)OC | C39H51N5O6
